US05948911
Following the procedure of Example 1, the reaction of 3-nitrobenzylamine with 2,4-dichloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidine yields 2-chloro-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine.

reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 2,4-dichloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)Cl | C10H8Cl2N2S
product | 2-chloro-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC(=CC=C1)[N+](=O)[O-] | C17H15ClN4O2S
